* EESchema Netlist Version 1.1 (Spice format) creation date: 2014-12-27 15:05:59

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

*Sheet Name:/
U1  N-000028 /digitDriver/D0 /digitDriver/D1 /digitDriver/D2 /digitDriver/D3 /digitDriver/D4 /digitDriver/D5 GND N-000046 N-000045 /digitDriver/D6 /digitDriver/D7 /digitDriver/D8 /digitDriver/D9 /digitDriver/Ddot /lampaLC513_s0/NixieOnOff /lampaLC513_s1/NixieOnOff ? GND +3.3V ? ? /cantx /canrx ? N-000026 N-000002 N-000001 PIC18F2480		
C1  N-000046 GND 22p		
C2  N-000045 GND 22p		
X1  N-000046 N-000045 10MHz		
R1  N-000028 +3.3V 10k		
P1  +3.3V GND N-000028 N-000001 N-000002 N-000026 CONN_6		
R3  GND N-000026 10k		
U2  /cantx GND +3.3V /canrx ? N-000027 N-000010 N-000013 MCP2551		
R2  GND N-000013 47k		
J1  ? GND N-000010 ? N-000027 ? ? ? +3.3V DB9		
C5  +3.3V GND 100n		
C3  +3.3V GND 100n		
C4  +3.3V GND 1u		
*Sheet Name:/lampaLC513_s0/
V1  /digitDriver/A0 /digitDriver/A1 /digitDriver/A2 /digitDriver/A3 /digitDriver/A4 /digitDriver/A5 /digitDriver/A6 /digitDriver/A7 /digitDriver/A8 /digitDriver/A9 N-000049 /digitDriver/Adot LC513		
Q2  N-000051 VAA N-000052 PMBTA92		
Q1  /lampaLC513_s0/NixieOnOff N-000050 GND PMBTA42		
R6  N-000052 N-000049 10k/0,5W		
R5  VAA N-000051 100k		
R4  N-000051 N-000050 470k		
*Sheet Name:/lampaLC513_s1/
V2  /digitDriver/A0 /digitDriver/A1 /digitDriver/A2 /digitDriver/A3 /digitDriver/A4 /digitDriver/A5 /digitDriver/A6 /digitDriver/A7 /digitDriver/A8 /digitDriver/A9 N-000055 /digitDriver/Adot LC513		
Q4  N-000054 VAA N-000053 PMBTA92		
Q3  /lampaLC513_s1/NixieOnOff N-000056 GND PMBTA42		
R9  N-000053 N-000055 10k/0,5W		
R8  VAA N-000054 100k		
R7  N-000054 N-000056 470k		
*Sheet Name:/digitDriver/
*Sheet Name:/digitDriver/digitDriverOne_dot/
D1  GND /digitDriver/Adot BZV55C75		
Q5  N-000057 /digitDriver/Adot GND PMBTA42		
R10  /digitDriver/Ddot N-000057 R		
*Sheet Name:/digitDriver/digitDriverOne_1/
D2  GND /digitDriver/A1 BZV55C75		
Q6  N-000058 /digitDriver/A1 GND PMBTA42		
R11  /digitDriver/D9 N-000058 R		
*Sheet Name:/digitDriver/digitDriverOne_2/
D3  GND /digitDriver/A2 BZV55C75		
Q7  N-000059 /digitDriver/A2 GND PMBTA42		
R12  /digitDriver/D8 N-000059 R		
*Sheet Name:/digitDriver/digitDriverOne_3/
D4  GND /digitDriver/A3 BZV55C75		
Q8  N-000060 /digitDriver/A3 GND PMBTA42		
R13  /digitDriver/D7 N-000060 R		
*Sheet Name:/digitDriver/digitDriverOne_4/
D5  GND /digitDriver/A4 BZV55C75		
Q9  N-000061 /digitDriver/A4 GND PMBTA42		
R14  /digitDriver/D6 N-000061 R		
*Sheet Name:/digitDriver/digitDriverOne_5/
D6  GND /digitDriver/A5 BZV55C75		
Q10  N-000062 /digitDriver/A5 GND PMBTA42		
R15  /digitDriver/D5 N-000062 R		
*Sheet Name:/digitDriver/digitDriverOne_6/
D7  GND /digitDriver/A6 BZV55C75		
Q11  N-000063 /digitDriver/A6 GND PMBTA42		
R16  /digitDriver/D4 N-000063 R		
*Sheet Name:/digitDriver/digitDriverOne_7/
D8  GND /digitDriver/A7 BZV55C75		
Q12  N-000064 /digitDriver/A7 GND PMBTA42		
R17  /digitDriver/D3 N-000064 R		
*Sheet Name:/digitDriver/digitDriverOne_8/
D9  GND /digitDriver/A8 BZV55C75		
Q13  N-000065 /digitDriver/A8 GND PMBTA42		
R18  /digitDriver/D2 N-000065 R		
*Sheet Name:/digitDriver/digitDriverOne_9/
D10  GND /digitDriver/A9 BZV55C75		
Q14  N-000066 /digitDriver/A9 GND PMBTA42		
R19  /digitDriver/D1 N-000066 R		
*Sheet Name:/digitDriver/digitDriverOne_0/
D11  GND /digitDriver/A0 BZV55C75		
Q15  N-000067 /digitDriver/A0 GND PMBTA42		
R20  /digitDriver/D0 N-000067 R		

.end
